US07449467B2
N-[(1R,3S)-3-Isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentanamine dihydrochloride (135.0 mg, 0.29 mmol), 3-methyltetrahydro-4H-pyran-4-one (100 mg, 0.88 mmol) and triethylamine (0.16 mL, 1.2 mmol) in methylene chloride (10 mL) was added sodium triacetoxyborohydride (190 mg, 0.88 mmol). After being stirred at room temperature overnight, the reaction was quenched with saturated NaHCO3. The resulting solution was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated. The residue was purified by flash chromatography on silica gel (EtOAc to EtOAc/Et3N=10:0.1) to give desired product as a mixture of two isomers. The two isomers were separated by chiral HPLC to give isomer 1 and isomer 2. MS calculated for C24H36F3N5O2: (M+H) 484; found 484.1.

reactant | (1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentanamine dihydrochloride | 0.29 mmol, 135.0 mg | Cl.Cl.C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F
reactant | 3-methyltetrahydro-4H-pyran-4-one | 0.88 mmol, 100 mg | CC1COCCC1=O | C6H10O2
reactant | triethylamine | 1.2 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.88 mmol, 190 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R,3S)-3-Isopropyl-3-({4-[4-(trifluoromethyl)pyrimidin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)C)C(=O)N1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F | C24H36F3N5O2
